US08536209B2
2-Isopropyl-5-phenyl-oxazole-4-carboxylic acid
Prepared starting from DL-3-phenylserine hydrate following sequentially general procedures W, X with isobutyric acid, Y and Z. LC-MS-conditions 02: tR=0.90 min; [M+H]+=232.51.

reactant | DL-3-phenylserine hydrate | C1=CC=C(C=C1)C(C(C(=O)O)N)O | C9H11NO3
reactant | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
product | 2-Isopropyl-5-phenyl-oxazole-4-carboxylic acid | C(C)(C)C=1OC(=C(N1)C(=O)O)C1=CC=CC=C1 | C13H13NO3
